US05300477
A mixture of 3.14 g (20.0 mmol) of benzamidine hydrochloride hydrate, 1.65 g (20.1 mmol) of powdered anhydrous sodium acetate, 4.17 g (22.2 mmol) of ethyl 3,3-diethoxyacrylate and 10 mL of DMSO was heated at 120° C. for 8 h. The mixture was cooled, diluted with 50 mL of 5% aqueous NaOH and washed with two 100 mL portions of ether. The aqueous layer was acidified with concentrated hydrochloric acid and the precipitate was collected by filtration and dried under vacuum at 50° C. to furnish 2.28 g (57%) of crude 6-ethoxy-2-phenyl-4(3H)-pyrimidinone as a yellow solid 1H-NMR (d6-DMSO) δ1.35(3H,t), 4.33(2H,q), 5.60(1H,s), 7.50(3H,m), 8.2(2H,m).

reactant | benzamidine hydrochloride hydrate | 20.0 mmol, 3.14 g | O.Cl.C(C1=CC=CC=C1)(=N)N
reactant | sodium acetate | 20.1 mmol, 1.65 g | C(C)(=O)[O-].[Na+]
reactant | ethyl 3,3-diethoxyacrylate | 22.2 mmol, 4.17 g | C(C)OC(=CC(=O)OCC)OCC | C9H16O4
reactant | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | NaOH | 50 mL | [OH-].[Na+]
product | 6-ethoxy-2-phenyl-4(3H)-pyrimidinone | 2.28 g, 57% | C(C)OC1=CC(NC(=N1)C1=CC=CC=C1)=O | C12H12N2O2
